US07863446B2
Synthesis of 4-[4-(methylthio)phenyl]-5,6-diphenyl-2-(trifluoro methyl)pyrimidine
4-Chloro-5,6-diphenyl-2-(trifluoromethyl)pyrimidine (0.2 g, 0.6 mmol, prepared according to the procedure described in PCT/IB03/02879) was heated to reflux with tetra-kis triphenyl palladium (0) (0.068 g, 0.058 mmol), aqueous solution of potassium carbonate (0.16 g in 0.6 ml water), 4-(methylthio)benzene boronic acid (0.168 g, 1 mmol) and toluene (20 ml) under a nitrogen atmosphere overnight. The reaction mixture was acidified with dilute hydrochloric acid 10 ml and extracted with ethyl acetate. The organic layer was concentrated; the crude material obtained was triturated with ether and filtered to yield the title compound. 1H-NMR (DMSO-d6) δ: 2.45 (s, 3H), 7.13-7.15 (m, 4H), 7.23-7.34 (m, 8H), 7.61 (d, 2H). MS m/z: 423.1 (M++1).

reactant | 4-Chloro-5,6-diphenyl-2-(trifluoromethyl)pyrimidine | ClC1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C17H10ClF3N2
reactant | potassium carbonate | 0.6 ml, 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(methylthio)benzene boronic acid | 1 mmol, 0.168 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(methylthio)phenyl]-5,6-diphenyl-2-(trifluoro methyl)pyrimidine | CSC1=CC=C(C=C1)C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C24H17F3N2S
